US04536503
Preparation of 1-(p-Toluenesulphonyloxy)-8-chlorooctane
p-Toluenesulphonyl chloride (20.5 g) was added to a mixture of 8-chloro-1-octanol (17.7 g) and pyridine (50 ml) of 0°. After a hour the solution was added to ice and the mixture was extracted with ether. The ethereal solution was washed with dilute hydrochloric acid, dried with magnesium sulfate, and evaporated to yield the title compound as an oil.

reactant | p-Toluenesulphonyl chloride | 20.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 8-chloro-1-octanol | 17.7 g | ClCCCCCCCCO | C8H17ClO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-(p-Toluenesulphonyloxy)-8-chlorooctane | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCl)C | C15H23ClO3S
